US09428503B2
Intermediate O3: 6-bromo-4-[[(1R,3R)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid: 6-bromo-4-[[(1S,3S)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid (1:1 mixture)
2N Sodium hydroxide (150 mL) was added to a mixture of ethyl 6-bromo-4-[[(1R,3R)-3-methoxycyclopentyl]amino]quinoline-3-carboxylate: ethyl 6-bromo-4-[[(1S,3S)-3-methoxycyclopentyl]amino]quinoline-3-carboxylate (1:1 mixture) (18.6 g, 47.2 mmol) in MeOH (500 mL) and water (100 mL) and the resulting solution stirred for 15 h at ambient temperature. The mixture was concentrated under vacuum and the residue diluted with water (300 mL). The pH value of the solution was adjusted to 5 with 2N hydrochloric acid, the solids collected by filtration and dried in an oven under reduced pressure to afford the desired material (as a racemic mixture) (17.1 g) as a off-white solid. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 1.60-1.71 (2H, m), 1.81-1.88 (1H, m), 1.96-2.62 (1H, m), 2.03-2.10 (2H, m), 3.21 (3H, s), 3.91-3.96 (1H, m), 4.51-4.72 (1H, m), 7.77 (1H, d), 7.93 (1H, d), 8.45 (1H, d), 8.85 (1H, s), 13.30 (1H, bs). Mass Spectrum: m/z (ES+)[M+H]+=365.2.

reactant | Sodium hydroxide | 2N, 150 mL | [OH-].[Na+]
reactant | ethyl 6-bromo-4-[[(1R,3R)-3-methoxycyclopentyl]amino]quinoline-3-carboxylate ethyl 6-bromo-4-[[(1S,3S)-3-methoxycyclopentyl]amino]quinoline-3-carboxylate | 47.2 mmol, 18.6 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)N[C@H]1C[C@@H](CC1)OC.BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)N[C@@H]1C[C@H](CC1)OC | 2C18H21BrN2O3
reactant | water | 100 mL | O | H2O
solvent | MeOH | 500 mL | CO | CH4O
product | O3 6-bromo-4-[[(1R,3R)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid 6-bromo-4-[[(1S,3S)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid | O=[O+][O-].BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)N[C@H]1C[C@@H](CC1)OC.BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)N[C@@H]1C[C@H](CC1)OC | InChI=1S/2C16H17BrN2O3.O3/c2*1-22-11-4-3-10(7-11)19-15-12-6-9(17)2-5-14(12)18-8-13(15)16(20)21;1-3-2/h2*2,5-6,8,10-11H,3-4,7H2,1H3,(H,18,19)(H,20,21);/t2*10-,11-;/m10./s1
